US08629134B2
Synthesis of (6R,7R)-6-amino-7-hydroxy-4,5,6,7-tetrahydro-imidazo[4,5,1-jk][1]-benzazepin-2 [1H]-one
A catalyst solution was prepared by dissolving (R,R)-(+)-2,2′-bis[(S)—(N,N-dimethylamino)(phenyl)methyl]-1,1′-bis[di(3,5-dimethyl-4-methoxyphenyl)phosphino]ferrocene (52.6 mg; 0.05 mmol; identified above as Ligand Formula (A-1B)) and bis(1,5-cyclooctadiene)rhodium(I)tetrafluoroborate (20.4 mg; 0.05 mmol; also known as “Rh(COD)2BF4”) in dichloromethane (1 ml) under argon, and then stirring the resulting mixture at room temperature for 10 min. In parallel, 4,5-dihydro-imidazo[4,5,1-jk][1]benzazepin-2,6,7[1H]-trione-6-oxime (1.15 g, 5.0 mmol) was charged into a 100 mL autoclave and suspended in 40 mL of methanol. The autoclave was purged 3 times with H2 without stirring at 20 bar, and 3 times with stirring at 20 bar. Afterward, the catalyst solution, diluted with 4 ml of methanol, was charged into the autoclave. Hydrogen pressure (60 bar) was then applied, and the mixture was stirred at that pressure for 22 hr at 40° C. After cooling the mixture to room temperature and releasing the pressure, 2 g of Deloxan® THP II were added, and the resulting suspension was stirred at 55° C. for 10 min and filtered. The solvents were then removed to yield the product.

reactant | 4,5-dihydro-imidazo[4,5,1-jk][1]benzazepin-2,6,7[1H]-trione-6-oxime | 5.0 mmol, 1.15 g | N1C(N2CCC(C(C3=C2C1=CC=C3)=O)=NO)=O | C11H9N3O3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | methanol | 40 mL | CO | CH4O
catalyst | bis(1,5-cyclooctadiene)rhodium(I)tetrafluoroborate | [B-](F)(F)(F)F.C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Rh]
product | (6R,7R)-6-amino-7-hydroxy-4,5,6,7-tetrahydro-imidazo[4,5,1-jk][1]-benzazepin-2 [1H]-one | N[C@@H]1CCN2C3=C([C@H]1O)C=CC=C3NC2=O | C11H13N3O2
